Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Lexapro
 
Attending: ___.
 
Chief Complaint:
abdominal pain, hemoperitoneum from likely ruptured hemorrhagic 
cyst
 
Major Surgical or Invasive Procedure:
none

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 01:35PM   WBC-10.3* RBC-3.45* HGB-9.6* HCT-29.1* MCV-84 
MCH-27.8 MCHC-33.0 RDW-13.3 RDWSD-41.3
___ 01:35PM   PLT COUNT-141*
___ 06:35AM   WBC-7.2 RBC-2.98* HGB-8.5* HCT-25.9* MCV-87 
MCH-28.5 MCHC-32.8 RDW-13.0 RDWSD-40.7
___ 06:35AM   PLT COUNT-127*
___ 04:43AM   LACTATE-1.7
___ 04:25AM   WBC-9.9 RBC-3.33*# HGB-9.2*# HCT-28.6*# 
MCV-86 MCH-27.6 MCHC-32.2 RDW-13.0 RDWSD-40.5
___ 04:25AM   NEUTS-66.7 ___ MONOS-5.7 EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-6.61*# AbsLymp-2.60 AbsMono-0.56 
AbsEos-0.06 AbsBaso-0.04
___ 04:25AM   PLT COUNT-153
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
from the emergency department for a likely ruptured hemorrhagic 
cyst. She had a pelvic ultrasound which showed 1. Left 
hemorrhagic ovarian cyst and a large volume of free fluid in the 
right lower quadrant pelvis, concerning blood. 2. Malpositioned 
IUD with inferior displacement into the uterine isthmus and 
upper cervix. 

Her pain was controlled initially with IV dilaudid, and she was 
transitioned to oral acetaminophen, ibuprofen and oxycodone for 
breakthrough pain. She was found to have anemia with a 
hematocrit of 25.9, and was given 1 unit of packed red blood 
cells, with an appropriate rise in her hematocrit to 29.1.

She was initially NPO for possible procedure in the operating 
room, however her serial abdominal exams, vital signs and 
hematocrit were stable. Her pain was also well-controlled with 
oral medications. Her malpositioned Paragard IUD was attempted 
to be removed at the bedside, however was unsuccessful due to 
poor visibility and patient discomfort. The patient was 
counseled on the need for backup birth control, and that she 
would have her IUD removed in the office as an outpatient. 

On hospital day 1 she continued to be clinically stable and she 
was transitioned to a regular diet. She was discharged to home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
alprazolam 0.25 mg tablet
1 tablet(s) by mouth once as needed for anxiety 

Latisse 0.03 % eyelash drops
use as directed   ___
 
paroxetine 30 mg tablet
1 tablet(s) by mouth daily   ___

simvastatin 40 mg tablet
1 tablet(s) by mouth at bedtime  

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed 4,000mg in 24 hours. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Take with food or milk. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
3.  PARoxetine 30 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ruptured ovarian hemorrhagic cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for pain control and 
close monitoring. You have recovered well and the team believes 
you are ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___